US05981437
(a) 3,5-Difluoro-2.4.6-tris(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine
A mixture of pentafluoropyridine (16.9 g, 0.1 mol), 5-hydroxy-1-methyl-3-trifluoromethylpyrazole (potassium salt, 62 g, 0.33 mol), and potassium carbonate (45.5 g, 0.33 mol) in anhydrous sulfolane (70 ml) is heated to 80° C. for 4 hours and then to 100° C. for 3 hours. The reaction mixture is diluted with pentane/ethyl acetate (1/1 by volume). After filtration through a bed of silica gel the filtrate is washed 8 times with water. The organic layer is dried with anhydrous magnesium sulfate and filtered over silica gel. Now the solvent is removed and the residue is washed with diisopropyl ether. After drying, colorless crystals (39.1 g, 64% yield) of melting point 119° C. are obtained.

reactant | pentafluoropyridine | 0.1 mol, 16.9 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | 5-hydroxy-1-methyl-3-trifluoromethylpyrazole | 0.33 mol, 62 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | potassium carbonate | 0.33 mol, 45.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | sulfolane | 70 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | pentane ethyl acetate | CCCCC.C(C)(=O)OCC
product | 3,5-Difluoro-2.4.6-tris(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 39.1 g, 64% yield | FC=1C(=NC(=C(C1OC1=CC(=NN1C)C(F)(F)F)F)OC1=CC(=NN1C)C(F)(F)F)OC1=CC(=NN1C)C(F)(F)F | C20H12F11N7O3
